US04248889
A solution of 5.2 g (0.04 mole) of ethyl acetoacetate in a small quantity of anhydrous tetrahydrofuran was added dropwise to 1.2 g (0.04 mole) of sodium hydride (in the form of a 55% w/w suspension in oil) in 100 ml of anhydrious tetrahydrofuran, with ice-cooling and stirring. The mixture was then stirred for 30 minutes. after which it was cooled to a temperature of from -10° C. to -5° C. To the mixture were added dropwise 30 ml of an n-hexane solution containing 0.04 mole of n-butyllithium. The mixture was stirred at a temperature from 5° C. to 0° C. for 30 minutes, after which it was cooled to -60° C. 6 g (0.033 mole) of 3-(1-naphthyl)propionaldehyde in 50 ml of anhydrous tetrahydrofuran were then added all at once to the reaction mixture. After stirring the mixture for 30 minutes, it was poured into about 500 ml of ice-water. It was then acidified by the addition of hydrochloric acid, with stirring, and the tetrahyrofuran layer was separated. The aqueous layer was extracted three times, each time with 100 ml of ethyl acetate. The tetrahydrofuran layer and the ethyl acetate extracts were combined, washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulphate. The solvent was then evaporated off under reduced pressure. The resulting residue was adsorbed on a silica gel column chromatography and the fractions eluted with a 10:3 by volume mixture of ethyl acetate and n-hexane were evaporated to dryness to give 4.0 g (yield 30%) of ethyl 5-hydroxy-7-(1-naphthyl)-3-oxoheptanoate.

reactant | ethyl acetoacetate | 0.04 mole, 5.2 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium hydride | 0.04 mole, 1.2 g | [H-].[Na+]
reactant | n-butyllithium | 0.04 mole | C(CCC)[Li]
reactant | 3-(1-naphthyl)propionaldehyde | 0.033 mole, 6 g | C1(=CC=CC2=CC=CC=C12)CCC=O | C13H12O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 30 ml | CCCCCC | C6H14
product | ethyl 5-hydroxy-7-(1-naphthyl)-3-oxoheptanoate | 4.0 g, yield 30% | OC(CC(CC(=O)OCC)=O)CCC1=CC=CC2=CC=CC=C12 | C19H22O4
